US05360802
Step 1: 1-(Phenylcarbonylaminosulphonyl)-3-nitrobenzene
The title compound was prepared in the some way as that described in Example 11, Step 1, using 3-nitrobenzenesulphonamide (10.1 g, 50 mml), benzoic acid (6.1 g, 50 mmol), 4-dimethylaminopyridine (6.1 g, 50 mmol), 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (9.59 g, 50 mmol) and anhydrous dichloromethane (400ml). The title compound (13.1 g, 86%) was afforded as a colourless solid. mp 181°-183° C. 1H NMR (360 MHz, D6 -DMSO) δ 7.49 (2H, m), 7.61-7.66 (1H, m), 7.86-7.89 (2H, m), 7.96 (1H, dd, J=8.0 and 8.0 Hz), 8.43 (1H, m), 8.56 (1H, m), 8.71 (1H, m).

reactant | 3-nitrobenzenesulphonamide | 10.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | benzoic acid | 50 mmol, 6.1 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 50 mmol, 9.59 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 50 mmol, 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400ml | ClCCl | CH2Cl2
product | 1-(Phenylcarbonylaminosulphonyl)-3-nitrobenzene | 13.1 g, 86% | C1(=CC=CC=C1)C(=O)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H10N2O5S
